US07560546B2
Step C: Ethyl 5-bromo-3-({4-[(4-methoxyphenyl)sulfonyl]piperazin-1-yl}sulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate
To a solution ethyl 5-bromo-1-(phenylsulfonyl)-3-(piperazin-1-ylsulfonyl)-1H-indole-2-carboxylate hydrochloride (20 mg, 0.034 mmol) in 1.0 mL of dichloromethane at room temperature was added triethylamine (0.019 mL, 0.14 mmol), followed by 4-(methoxy)benzenesulfonyl chloride (8.0 mg, 0,041 mmol). After stirring overnight, the solvent was removed under a stream of nitrogen to provide the titled compound.

reactant | ethyl 5-bromo-1-(phenylsulfonyl)-3-(piperazin-1-ylsulfonyl)-1H-indole-2-carboxylate hydrochloride | 0.034 mmol, 20 mg | Cl.BrC=1C=C2C(=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC)S(=O)(=O)N1CCNCC1
reactant | triethylamine | 0.14 mmol, 0.019 mL | C(C)N(CC)CC | C6H15N
reactant | 4-(methoxy)benzenesulfonyl chloride | 0,041 mmol, 8.0 mg | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
product | Ethyl 5-bromo-3-({4-[(4-methoxyphenyl)sulfonyl]piperazin-1-yl}sulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate | BrC=1C=C2C(=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC)S(=O)(=O)N1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)OC | C28H28BrN3O9S3
